US06124323
1-[2-(2-Hydroxyphenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride
The title compound was prepared from 4-(4-methylbenzyl)piperidine hydrochloride (294 mg, 1.30 mmol), 2-(2-benzyloxyphenoxy)ethyl bromide (399 mg, 1.3 mmol) and potassium carbonate (449 mg, 3.2 mmol) in two steps as white-off solid (240 mg): mp 225-227° C. 1H NMR (CD3OD) 1.436 (m, 2 H), 1.758 (d, J=12.9 Hz, 3 H), 2.135 (s, 3 H), 2.443 (d, J=6.3 Hz, 2 H), 2.900 (m, 2 H), 3.388 (m, 2 H), 3.503 (m, 2 H), 4.172 (t, J=5.7 Hz, 2 H), 6.651-6.739 (m, 3 H), 6.818 (m, 1 H), 6.928 (m, 4 H).

reactant | 4-(4-methylbenzyl)piperidine hydrochloride | 1.30 mmol, 294 mg | Cl.CC1=CC=C(CC2CCNCC2)C=C1
reactant | 2-(2-benzyloxyphenoxy)ethyl bromide | 1.3 mmol, 399 mg | C(C1=CC=CC=C1)OC1=C(OCCBr)C=CC=C1 | C15H15BrO2
reactant | potassium carbonate | 3.2 mmol, 449 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(2-Hydroxyphenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride | Cl.OC1=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)C)C=CC=C1 | InChI=1S/C21H27NO2.ClH/c1-17-6-8-18(9-7-17)16-19-10-12-22(13-11-19)14-15-24-21-5-3-2-4-20(21)23;/h2-9,19,23H,10-16H2,1H3;1H
